US07842684B2
N-({4-[(2R,3R)-3-{[(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-(4-fluorophenyl)ethyl]thio}-1-(4-{3-[(methylsulfonyl)amino]prop-1-yn-1-yl}phenyl)-4-oxoazetidin-2-yl]phenoxy}acetyl)glycine
{4-[(2R,3R)-3-{[(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-(4-fluorophenyl)ethyl]thio}-(4-{3-[(methylsulfonyl)amino]prop-1-yn-1-yl}phenyl)-4-oxoazetidin-2-yl]phenoxy}acetic acid (19.0 mg, 0.020 mmol) was dissolved in DCM (2 ml). Methyl glycinate hydrochloride (4.1 mg, 0.033 mmol) and N-methylmorpholine (6 μl, 0.059 mmol) were added and the reaction mixture was stirred for five minutes. TBTU (9.5 mg, 0.029 mmol) was added and the reaction mixture was stirred for 2 hours. The solvent was removed under reduced pressure. The formation of the methylester of the titled compound was confirmed, M/z: 782.55 (M−1). The residue was suspended in MeCN (1 ml). Triethylamine (27 μl, 0.19 mmol), water (7 μl) and LiCl (24.8 mg, 0.66 mmol) were added and the reaction mixture was stirred at 35° C. overnight. Additional triethylamine (15 μl, 0.11 mmol) and water (15 μl) were added and the reaction mixture was stirred at 35° C. for 5 hours. MeCN (1 ml) was added and the mixture was stirred overnight. The reaction mixture was purified with preparative HPLC on a C8 column. A gradient from 20 to 85% MeCN in 0.1M NH4OAc buffer was used as eluent. Most of the MeCN was removed under reduced pressure and the residue was acidified to pH 3 with KHSO4, (2M) and extracted from DCM. The phases were separated and the organic phase was passed through a phase separator. The solvent was removed under reduced pressure. The residue was diluted with water and MeCN and lyophilised to give the title compound. H-NMR (400 MHz, DMSO-d6) 0.00 (s, 3H), 0.14 (s, 3H), 0.95 (s, 9H), 3.03-3.14 (m 2H), 3.16 (s, 3H), 3.97 (d, 2H), 4.19 (d, 2H), 4.48 (d, 2H), 4.70 (s, 2H), 5.10 (t, 1H), 5.30 8d, 1H), 7.18 (2H), 7.32 (t, 2H), 7.40 (d, 2H), 7.52-7.59 (m, 6H), 7.76 (t, 1H), 8.52 (t, 1H). M/z: 768.60 (M−1).

reactant | {4-[(2R,3R)-3-{[(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-(4-fluorophenyl)ethyl]thio}-(4-{3-[(methylsulfonyl)amino]prop-1-yn-1-yl}phenyl)-4-oxoazetidin-2-yl]phenoxy}acetic acid | 0.020 mmol, 19.0 mg | [Si](C)(C)(C(C)(C)C)O[C@@H](CS[C@@H]1[C@H](N(C1=O)C1=CC=C(C=C1)C#CCNS(=O)(=O)C)C1=CC=C(OCC(=O)O)C=C1)C1=CC=C(C=C1)F | C35H41FN2O7S2Si
reactant | Methyl glycinate hydrochloride | 0.033 mmol, 4.1 mg | Cl.NCC(=O)OC
reactant | N-methylmorpholine | 0.059 mmol, 6 μl | CN1CCOCC1 | C5H11NO
reactant | TBTU | 0.029 mmol, 9.5 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | Triethylamine | 0.19 mmol, 27 μl | C(C)N(CC)CC | C6H15N
reactant | LiCl | 0.66 mmol, 24.8 mg | [Li+].[Cl-]
reactant | triethylamine | 0.11 mmol, 15 μl | C(C)N(CC)CC | C6H15N
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
solvent | MeCN | 1 ml | CC#N | C2H3N
solvent | water | 15 μl | O | H2O
solvent | water | 7 μl | O | H2O
product | N-({4-[(2R,3R)-3-{[(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-(4-fluorophenyl)ethyl]thio}-1-(4-{3-[(methylsulfonyl)amino]prop-1-yn-1-yl}phenyl)-4-oxoazetidin-2-yl]phenoxy}acetyl)glycine | [Si](C)(C)(C(C)(C)C)O[C@@H](CS[C@@H]1[C@H](N(C1=O)C1=CC=C(C=C1)C#CCNS(=O)(=O)C)C1=CC=C(OCC(=O)NCC(=O)O)C=C1)C1=CC=C(C=C1)F | C37H44FN3O8S2Si
